US06187805B1
b) 3-[1-(Benzenesulphonyl)-1H-indol-4-yl]propionic acid ethyl ester
3-[1-(Benzenesulphonyl)-1H-indol-4-yl]acrylic acid ethyl ester (2.48 g, 6.98 mmol) was hydrogenated over 10% Pd-C (500 mg) in ethyl acetate-ethanol (4:1; 75 ml), under an atmosphere of hydrogen. The catalyst was removed by filtration after 4 h, and the solvents were removed to obtain the title compound as a colourless oil which crystallised on standing (2.47 g, 100%); δH (CDCl3, 360 MHZ) 1.10 (3H, t, J=6.8 Hz), 2.57 (2H, t, J=7.5 Hz), 3.06 (2H, t, J=7.5 Hz), 4.02 (2H, q, J=7.2 Hz), 6.66 (1H, d, J=0.72 Hz), 6.98 (1H, d, J=7.5 Hz), 7.14-7.18 (1H, m), 7.34-7.38 (2H, m), 7.43-7.48 (1H, m), 7.50 (1H, d, J=3.9 Hz), 7.77-7.82 (3H, m).

reactant | 3-[1-(Benzenesulphonyl)-1H-indol-4-yl]acrylic acid ethyl ester | 6.98 mmol, 2.48 g | C(C)OC(C=CC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C19H17NO4S
solvent | ethyl acetate ethanol | 75 ml | C(C)(=O)OCC.C(C)O
catalyst | Pd-C | 500 mg | [Pd] | Pd
product | 3-[1-(Benzenesulphonyl)-1H-indol-4-yl]propionic acid ethyl ester | C(C)OC(CCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C19H19NO4S
